US07915267B2
5-methyl-4-oxo-N-[(3-{[4-(1H-1,2,4-triazol-3-ylthio)butyl]oxy}phenyl)methyl]-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide
By a method similar to that in Example 15, and using, instead of ethyl 6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxylate, ethyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate obtained according to the method described in 034054656 and using, instead of 1-{3-[(3-{(1 (triphenylmethyl)-1H-1,2,4-triazol-3-yl]thiopropyl)oxy}phenyl}methaneamine, 1-{3-[(4-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}butyl)oxy]phenyl}methanamine obtained in Reference Example 11, the title compound was obtained as a pales yellow powder (232 mg, 48%).

reactant | ethyl 6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxylate | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C12H9N3O3
reactant | ethyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate | CC1=CSC=2N=C(NC(C21)=O)C(=O)OCC | C10H10N2O3S
reactant | 1-{3-[(4-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}butyl)oxy]phenyl}methanamine | C1(=CC=CC=C1)C(N1N=C(N=C1)SCCCCOC=1C=C(C=CC1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H32N4OS
product | 5-methyl-4-oxo-N-[(3-{[4-(1H-1,2,4-triazol-3-ylthio)butyl]oxy}phenyl)methyl]-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | CC1=CSC=2N=C(NC(C21)=O)C(=O)NCC2=CC(=CC=C2)OCCCCSC2=NNC=N2 | C21H22N6O3S2
